US04775674
A mixture of 5-hydroxy-2-nitrobenzaldehyde (20.00 g, 0.12 mole), 5-chloro-2-pentanone ethylene ketal (21.7 g, 0.132 mole), potassium carbonate (20.00 g, 0.14 mole), potassium iodide (0.5 g) and dimethylformamide (200 mL) was heated with stirring at 120° C. After 4 hours, the mixture was cooled, diluted with water and extracted with diethyl ether. The combined ethereal extracts were washed with water, dried over magnesium sulfate and the solvent evaporated. The residual oil comprised of 5-[3-(2-methyl-1,3-dioxolan-2-yl)propoxy]-2-nitrobenzaldehyde (used without purification) was dissolved in ethanol (200 mL) and added in one portion to a solution of sodium ethoxide (10.05 g, 0.15 mole) and diethyl 2,4-dioxoimidazolidine-5-phosphonate (35.00 g, 0.15 mole) in ethanol (300 mL). The mixture was stirred at room temperature for 90 minutes, concentrated to a volume of approximate 300 mL and diluted with water. The yellow precipitate was filtered off, washed with water and dried in vacuo at 70° C. to give 5-[[5-[3-(2-methyl-1,3dioxolan-2-yl)propoxy]-2-nitrophenyl]methylene]-2,4-imidazolidinedione (38.01 g, 84%). An analytical sample was prepared by crystallization from ethanol and had m.p. 175°-180° C.

reactant | 5-hydroxy-2-nitrobenzaldehyde | 0.12 mole, 20.00 g | OC=1C=CC(=C(C=O)C1)[N+](=O)[O-] | C7H5NO4
reactant | 5-chloro-2-pentanone ethylene ketal | 0.132 mole, 21.7 g | C1COC(C)(CCCCl)O1 | C7H13ClO2
reactant | potassium carbonate | 0.14 mole, 20.00 g | C([O-])([O-])=O.[K+].[K+]
reactant | sodium ethoxide | 0.15 mole, 10.05 g | [O-]CC.[Na+]
reactant | diethyl 2,4-dioxoimidazolidine-5-phosphonate | 0.15 mole, 35.00 g | O=C1NC(C(N1)=O)P(OCC)(=O)OCC | C7H13N2O5P
solvent | water | O | H2O
solvent | ethanol | 300 mL | C(C)O | C2H6O
catalyst | potassium iodide | 0.5 g | [I-].[K+]
solvent | dimethylformamide | 200 mL | CN(C=O)C | C3H7NO
product | 5-[[5-[3-(2-methyl-1,3dioxolan-2-yl)propoxy]-2-nitrophenyl]methylene]-2,4-imidazolidinedione | 38.01 g, 84% | CC1(OCCO1)CCCOC=1C=CC(=C(C1)C=C1C(NC(N1)=O)=O)[N+](=O)[O-] | C17H19N3O7
